US06399598B1
1-[(4-Methoxyphenyl)sulfonyl]-5-benzyloxycarbonyl-diazepine-2-carboxylic Acid (8a):
The 1-[(4-methoxyphenyl)sulfonyl]-diazepine-2-carboxylic acid (0.570 g, 1.33 mmol) is dissolved in water (5 mL) and p-dioxane (10 mL). Triethyl amine (0.74 mL, 5.32 mmol) and benzyl chloroformate (0.228 mL, 1.59 mmol) are next added. The reaction mixture is stirred overnight at room temperature, and then the solution is acidified with 1N HCl to pH˜1 and poured into water and extracted with methylene chloride. The organic extracts are dried (Na2SO4) and concentrated down to an oil. The oil is purified by HPLC with a reverse phase column using 70% (95% water, 5% acetonitrile, 0.1% formic acid) and 30% (80% acetonitrile, 20% water) as the eluent.

reactant | 1-[(4-methoxyphenyl)sulfonyl]-diazepine-2-carboxylic acid | 1.33 mmol, 0.570 g | COC1=CC=C(C=C1)S(=O)(=O)N1N(CC=CC=C1)C(=O)O | C13H14N2O5S
reactant | Triethyl amine | 5.32 mmol, 0.74 mL | C(C)N(CC)CC | C6H15N
reactant | benzyl chloroformate | 1.59 mmol, 0.228 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | HCl | 1N | Cl | ClH
solvent | water | 5 mL | O | H2O
solvent | p-dioxane | 10 mL | O1CCOCC1 | C4H8O2
product | 1-[(4-Methoxyphenyl)sulfonyl]-5-benzyloxycarbonyl-diazepine-2-carboxylic Acid | COC1=CC=C(C=C1)S(=O)(=O)N1N(CC=C(C=C1)C(=O)OCC1=CC=CC=C1)C(=O)O | C21H20N2O7S
